US05753657
The procedure is performed as in Example 17 for the preparation of 10-(2-furylmethylene)-5H,10H-imidazo[l,2-a]indeno[1,2-e]pyrazin-4-one, but starting with 2 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 40 ml of dimethyl sulphoxide, 0.64 g of sodium hydride and 1.07 g of 4-pyridinecarboxaldehyde. The crude product (1.5 g) is purified by crystallization in 100 ml of dimethylformamide and 50 ml of methanol to give 1.06 g of 10-(4-pyridylmethylene)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one, in the form of an orange solid melting above 260° C. (Analysis % calculated C: 73.07, H: 3.87, N: 17.94, O: 5.12, % found C: 72.9, H: 3.7, N: 18.2).

reactant | 10-(2-furylmethylene)-5H,10H-imidazo[l,2-a]indeno[1,2-e]pyrazin-4-one | O1C(=CC=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C18H11N3O2
reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 2 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | sodium hydride | 0.64 g | [H-].[Na+]
reactant | 4-pyridinecarboxaldehyde | 1.07 g | N1=CC=C(C=C1)C=O | C6H5NO
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
product | 10-(4-pyridylmethylene)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.06 g | N1=CC=C(C=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H12N4O
